US07504433B2
(3-Mercapto-phenyl)-acetic acid methyl ester
A mixture of (3-dimethylcarbamoylsulfanyl-phenyl)-acetic acid methyl ester (2.0 g., 7.9 mmol), potassium hydroxide (1.4 g, 24 mmol),methanol (50 mL), and water (5 mL) is stirred at reflux 3 hr. The mixture is concentrated, and product partitioned between 1M aqueous hydrochloric acid (50 mL) and ethyl acetate (3×75 mL). The combined extracts are dried over anhydrous magnesium sulfate, filtered and concentrated. The residue is taken up in methanol (50 mL), 2 mL concentrated sulfuric acid is added, and the mixture refluxed 3 hr. The mixture is concentrated, and the residue purified by silica chromatography eluting with 7:3 hexanes:ethyl acetate to afford the title compound as a pale yellow oil, 1.0 g, 69%. MS M++1 183. The structure is confirmed by 1H NMR spectroscopy.

reactant | (3-dimethylcarbamoylsulfanyl-phenyl)-acetic acid methyl ester | 7.9 mmol, 2.0 g | COC(CC1=CC(=CC=C1)SC(N(C)C)=O)=O | C12H15NO3S
reactant | potassium hydroxide | 24 mmol, 1.4 g | [OH-].[K+]
reactant | methanol | 50 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | (3-Mercapto-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC=C1)S)=O | C9H10O2S
